US09227985B2
9-Bromo-7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one
To a solution of 7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (32 mg, 0.096 mmol) in THF (0.7 mL) was added N-bromosuccinimide (19 mg, 0.10 mmol). The solution was stirred at room temperature for 1 h and then concentrated under reduced pressure. Purification on silica gel using EtOAc/hexane gave the title compound, 24 mg. LCMS calc. for C19H16BrN4O2 (M+H)+: m/z=411.0, 413.0. found: 411.1, 413.1. 1H NMR (300 MHz, DMSO-d6): d 7.40 (s, 1H); 7.31 (m, 3H); 7.13 (m, 2H); 7.08 (s, 1H); 6.30 (s, 1H); 5.50 (s, 1H); 4.59 (m, 1H); 4.41 (m, 1H); 3.60 (s, 3H).

reactant | 7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.096 mmol, 32 mg | CN1N=CC=C1C1=CC=C2C=3N(C(COC31)C3=CC=CC=C3)C(N2)=O | C19H16N4O2
reactant | N-bromosuccinimide | 0.10 mmol, 19 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
product | 9-Bromo-7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | BrC=1C=C(C2=C3N(C(CO2)C2=CC=CC=C2)C(NC13)=O)C1=CC=NN1C | C19H15BrN4O2
